US05811439
The same procedures used in Example 1 were repeated except for using 4.80 g of [3,5-bis(trifluoromethyl)benzyl]methanesulfonate and 2.00 g of indole-4-carbaldehyde as a starting material to give 4.24 g of 1-[3,5-bis(trifluoromethyl)benzyl]indole-4-carbaldehyde as pale yellow crystals. The yield thereof was found to be 83%.

reactant | [3,5-bis(trifluoromethyl)benzyl]methanesulfonate | 4.80 g | FC(C=1C=C(CCS(=O)(=O)[O-])C=C(C1)C(F)(F)F)(F)F
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | 1-[3,5-bis(trifluoromethyl)benzyl]indole-4-carbaldehyde | 4.24 g | FC(C=1C=C(CN2C=CC=3C(=CC=CC23)C=O)C=C(C1)C(F)(F)F)(F)F | C18H11F6NO
